US07772285B2
1.85 g of magnesium was suspended in 15 mL of diethyl ether, to which a catalytic amount of iodine was added and then a solution of 20.00 g of 1-(benzyloxy)-3-bromobenzene in 40 mL of diethyl ether was added dropwise and this mixture was stirred for 8 hours while heating it under reflux. The reaction mixture was cooled to 5° C., to which a solution of 6.72 mL of cyclopentanone in 20 mL of diethyl ether was added dropwise, and this mixture was stirred for one hour at room temperature. Then an aqueous solution of ammonia chloride was added to the ice-cooled reaction mixture, and the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; hexane:ethyl acetate=10:1] to yield 7.65 g of 1-[3-(benzyloxy)phenyl] cyclopentanol as yellow oil.

reactant | magnesium | 1.85 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-(benzyloxy)-3-bromobenzene | 20.00 g | C(C1=CC=CC=C1)OC1=CC(=CC=C1)Br | C13H11BrO
reactant | cyclopentanone | 6.72 mL | C1(CCCC1)=O | C5H8O
reactant | ammonia chloride | [Cl-].N
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 1-[3-(benzyloxy)phenyl] cyclopentanol | 7.65 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCCC1)O | C18H20O2
